US07659267B2
Methyl 2-(benzoylamino)-3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate
A mixture of methyl 2-(benzoylamino)-3-(3-cyanophenyl)propionate (201 mg, 0.652 mmol), methyl thiosalicylate (165 mg, 0.981 mmol), triethylamine (0.18 mL, 1.3 mmol) and xylene (0.65 ml) was stirred at 145° C. for 15 hours under a nitrogen flow. The reaction mixture was applied to silica gel column chromatography (gradient elution with hexane-ethyl acetate from 67:33 to 50:50). The eluate was crystallized from ethyl acetate-diisopropyl ether to give the title compound (49.7 mg, 17%).

reactant | methyl 2-(benzoylamino)-3-(3-cyanophenyl)propionate | 0.652 mmol, 201 mg | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)CC1=CC(=CC=C1)C#N | C18H16N2O3
reactant | methyl thiosalicylate | 0.981 mmol, 165 mg | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 1.3 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
solvent | xylene | 0.65 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-(benzoylamino)-3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate | 49.7 mg, 17% | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)CC1=CC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C25H20N2O4S
